US04506079
To a solution of 4'-isopropylaminomethyl-5-bromo-1-p-toluenesulfonyl-4,5,6,7-tetrahydroindole-4-spiro-2'-[1,3]-dioxolane (100 parts) in dichloroethane (1000 parts) is added a solution of boron trichloride (2 molar equivalents) in dichloroethane (500 parts) at -19° C. The mixture is allowed to warm to room temperature and to stand for 50 hours. The reaction mixture is washed with aqueous sodium hydroxide at pH 10 and water, dried and concentrated. The residue is crystallized from hexane-benzene to give 4-(2-hydroxy-3-isopropylaminopropoxy)-1-p-toluenesulfonyl indole in 71% yield.

reactant | 4'-isopropylaminomethyl-5-bromo-1-p-toluenesulfonyl-4,5,6,7-tetrahydroindole-4-spiro-2'-[1,3]-dioxolane | C(C)(C)NCC1OC2(OC1)C=1C=CN(C1CCC2Br)S(=O)(=O)C2=CC=C(C=C2)C | C21H27BrN2O4S
reactant | boron trichloride | 2 molar | B(Cl)(Cl)Cl | BCl3
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
product | 4-(2-hydroxy-3-isopropylaminopropoxy)-1-p-toluenesulfonyl indole | 71% yield | OC(COC1=C2C=CN(C2=CC=C1)S(=O)(=O)C1=CC=C(C=C1)C)CNC(C)C | C21H26N2O4S
